US05344845
Under an argon stream, 5.3 ml of dibromomethane and 28 ml of titanium tetrachloride (methylene chloride 2M solution) were added to a solution of 15 g of zinc suspended in 250 ml of THF, under ice cooling. The resultant solution was stirred for one hour. Then, a solution of 8.5 g of methyl 1-methyl-4-oxo-1-cyclohexanecarboxylate in 50 ml of THF was added to the solution. The solution was reacted for 15 hours. After reaction, 500 ml of an aqueous sodium chloride solution was added to the reaction solution. The solution was extracted three times with 100 ml of ethyl acetate. The organic layer obtained was washed three times with an aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed in vacuo. The oily substance formed was subjected to column chromatography using 100 g of silica gel. From the fraction eluted with hexane and ethyl acetate=50:1, the solvent was removed in vacuo, yielding 7 g of methyl 1-methyl-4-methylene-1-cyclohexanecarboxylate as a colorless oil, which had the following physiochemical properties:

reactant | dibromomethane | 5.3 ml | BrCBr | CH2Br2
reactant | methyl 1-methyl-4-oxo-1-cyclohexanecarboxylate | 8.5 g | CC1(CCC(CC1)=O)C(=O)OC | C9H14O3
reactant | sodium chloride | 500 ml | [Cl-].[Na+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | titanium tetrachloride | 2M, 28 ml | [Ti](Cl)(Cl)(Cl)Cl
catalyst | zinc | 15 g | [Zn] | Zn
product | methyl 1-methyl-4-methylene-1-cyclohexanecarboxylate | 7 g | CC1(CCC(CC1)=C)C(=O)OC | C10H16O2
